US05405854
8.58 g of N-BOC-cyclopropylamine and 15 g of O-benzyl-3-bromo-1-propanol in 90 ml of DMF are treated at 0°-5° with 2.5 g of sodium hydride (55% in oil). The mixture is stirred at 0°-5° for 1 hour and at room temperature for 3 hours and then treated at 0°-5° with aqueous ammonium chloride solution. The mixture is partitioned in ether/water and the ether phases are washed with water, then dried and concentrated. After chromatography over silica gel with ether/hexane (1:4), the 11.5 g of product are stirred with 120 ml of 4.8 molar hydrochloric acid in dioxane. After concentration, the residue is crystallized in ether. The crystals are filtered and washed with ether. There are obtained 9.0 g of (3-benzyloxy-propyl)-cyclopropyl-amine hydrochloride, MS (EI): 206 (M+H).

reactant | N-BOC-cyclopropylamine | 8.58 g | C(=O)(OC(C)(C)C)NC1CC1 | C8H15NO2
reactant | O-benzyl-3-bromo-1-propanol | 15 g | C(C1=CC=CC=C1)OCCCBr | C10H13BrO
reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | (3-benzyloxy-propyl)-cyclopropyl-amine hydrochloride | 9.0 g | Cl.C(C1=CC=CC=C1)OCCCNC1CC1 | InChI=1S/C13H19NO.ClH/c1-2-5-12(6-3-1)11-15-10-4-9-14-13-7-8-13;/h1-3,5-6,13-14H,4,7-11H2;1H
